US03931143
C. 1-t-Butylazo-1-cyano-1-cyclopropylethane
To a mixture of 10.0g (.055 m.) of crude 1-t-butylhydrazo-1-cyano-1-cyclopropylethane, 100 ml methylene chloride, and 50 ml water, cooled to 0°C in an ice bath, was added 8.75 g (.055 m.) of bromine dropwise over 15 minutes holding the temperature at 0° to 5°C. After the bromine addition, the reaction was stirred 10 minutes, the methylene chloride layer separated, washed twice with saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate, filtered and the methylene chloride evaporated off. The yield was 8.9g (90%) of a brown liquid. The liquid was chromatographed over an alumina column, eluting it with pentane, to give 8.1g of a light tan liquid which solidifies in the freezer. The infrared spectrum was consistent with the structure of the proposed compound. The product is a thermally sensitive free radical and gas generating compound. The compound has a 10 hour half-life in trichlorobenzene at 62°C.

reactant | 1-t-butylhydrazo-1-cyano-1-cyclopropylethane | 10.0g | C(C)(C)(C)NNC(C)(C1CC1)C#N | C10H19N3
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
reactant | bromine | 8.75 g | BrBr | Br2
solvent | water | 50 ml | O | H2O
product | 1-t-Butylazo-1-cyano-1-cyclopropylethane | 8.1g | C(C)(C)(C)N=NC(C)(C1CC1)C#N | C10H17N3
